US06521790B2
(2R)-N-(2-amino-2-oxoethyl)-2-propyl-4-hexynamide
(2R)-2-Propyl-4-hexynoic acid (2.0 g, 13 mmol, prepared according to U.S. Pat. No. 5,786,380) in dichloromethane (20 mL) was treated with 2 drops of N,N-dimethylformamide and freshly distilled oxalyl chloride (1.25 equivalents) at 0° C. The mixture was allowed to warm to ambient temperature. After stirring for 3 hours at ambient temperature, the solvents were removed under reduced pressure to provide crude acid chloride. The crude acid chloride was dissolved in dichloromethane (15 mL) and added dropwise to a solution of 2-aminoacetamide hydrochloride (14 mmol) and triethylamine (3.5 mL) in water at 0° C. The mixture was allowed to warm to ambient temperature. After stirring for 3 hours at ambient temperature, the mixture was cooled to about 5° C. and treated with 1N HCl until pH=2. The resulting white solid was collected by filtration, dried and recrystallized from ethyl acetate to provide the title compound (70% yield).

reactant | (2R)-2-Propyl-4-hexynoic acid | C(CC)[C@@H](C(=O)O)CC#CC | C9H14O2
reactant | oxalyl chloride | 1.25 equivalents | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminoacetamide hydrochloride | 14 mmol | Cl.NCC(=O)N
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | triethylamine | 3.5 mL | C(C)N(CC)CC | C6H15N
product | (2R)-N-(2-amino-2-oxoethyl)-2-propyl-4-hexynamide | 70% yield | NC(CNC([C@@H](CC#CC)CCC)=O)=O | C11H18N2O2
